US06071932
3-Chloro-1-(3-nitro-9H-carbazol-9-yl)propane (Compound 17)
The compound was synthesized by mixing 3-nitrocarbazole (0.5 g, 0.0024 mol), NaH (0.06 g, 0.0026 mol) and 1-bromo-3-chloropropane (0.41 g,

reactant | 3-nitrocarbazole | 0.0024 mol, 0.5 g | [N+](=O)([O-])C=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8N2O2
reactant | NaH | 0.0026 mol, 0.06 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 3-Chloro-1-(3-nitro-9H-carbazol-9-yl)propane | ClCCCN1C2=CC=CC=C2C=2C=C(C=CC12)[N+](=O)[O-] | C15H13ClN2O2
